US07648997B2
Ammonium hydroxide (75 mL) and p-toluenesulfonyl chloride (4.87 g, 25.6 mmol) were added to a solution of 2-[3-(5-oxido-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)propoxy]-1H-isoindole-1,3(2H)-dione (10.0 g, 23.2 mmol) in chloroform (100 mL), and the resulting mixture was stirred vigorously for one hour.) A white precipitate was removed by filtration, and the filtrate layers were separated. The organic solution was washed with brine (2×150 mL), dried over magnesium sulfate, filtered, and concentrated under reduced pressure to provide a yellow solid. The solid was purified by column chromatography on silica gel (eluting with dichloromethane:methanol:ammonium hydroxide ranging in ratios from 94:5:1 to 91:8:1) to provide 4.31 g of 1-[3-(aminooxy)propyl]-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine as a beige powder, melting point (mp) 145-148° C.

reactant | Ammonium hydroxide | 75 mL | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 25.6 mmol, 4.87 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 2-[3-(5-oxido-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)propoxy]-1H-isoindole-1,3(2H)-dione | 23.2 mmol, 10.0 g | [O-][N+]1=CC2=C(C=3C=CC=CC13)N(C(=N2)CCC)CCCON2C(C1=CC=CC=C1C2=O)=O | C24H22N4O4
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-[3-(aminooxy)propyl]-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 4.31 g | NOCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCC | C16H21N5O
